US05811441
To a solution of 4-cyanobenzaldoxime (see Ex 2) (312 g, 2.13 mol) in tetrahydrofuran (3 L) at room temperature was added vinylacetic acid (552 g, 6.41 mol). The yellow solution was cooled in an ice bath and sodium hypochlorite solution (5200 mL)was added in a dropwise fashion over 2 h. After stirring overnight at room temperature the reaction was quenched with a 5% citric acid solution and diluted with 200 mL ether. The layers were separated and the aqueous acidified to pH 4 using citric acid. The acid layer was washed twice with 200 mL ether, the ether layers combined and extracted with saturated sodium bicarbonate solution. After acidifying the basic layer with citric acid, the product was extracted into 400 mL ether. The organic phase was washed three times with 150 mL water, once with brine, dried (MgSO4) and concentrated to give 220 g of 3-(4-cyanophenyl)isoxazolin-5-ylacetic acid as a white solid. Recrystallization from 25% water/ethanol yielded 165 g of analytically pure material; 1H NMR (300 MHz, CDCl3) δ 7.77-7.76 (d, J=1.8 Hz, 2H), 7.72-7.71 (d, J=1.8 Hz, 2H), 5.22-5.14 (m, 1H), 3.63-3.54 (dd, J=10.6 Hz, 16.8 Hz, 1H), 3.19-3.11 (dd, J=7.3 Hz, 16.8 Hz, 1H), 3.00-2.93 (dd, J=6.2 Hz, 16.5 Hz, 1H), 2.79-2.72 (dd, J=7.3 Hz, 16.5 Hz, 1H); IR (KBr): 3202, 2244, 1736, 1610, 1432, 1416, 1194, 1152, 928, 840, 562 cm-1. Anal. Calcd for C12H10N2O3 : C, 62.61; H, 4.38; N, 12.17. Found: C, 62.37; H, 4.47; N, 11.71.

reactant | 4-cyanobenzaldoxime | 2.13 mol, 312 g | C(#N)C1=CC=C(C=NO)C=C1 | C8H6N2O
reactant | vinylacetic acid | 6.41 mol, 552 g | C(=C)CC(=O)O | C4H6O2
reactant | sodium hypochlorite | 5200 mL | Cl[O-].[Na+]
solvent | tetrahydrofuran | 3 L | O1CCCC1 | C4H8O
product | 3-(4-cyanophenyl)isoxazolin-5-ylacetic acid | 220 g | C(#N)C1=CC=C(C=C1)C1=NOC(C1)CC(=O)O | C12H10N2O3
